US05482948
b) 5E-6-(3-(2-Benzoyl-3-(2-methylpropyl)guanidino)phenyl)-6-(3-pyridyl)hex-5-enoic acid
2.6 g methyl 5E-6-(3-(benzoylimino-phenoxymethyleneamino)phenyl)-6-(3-pyridyl)hex-5-enoate and 5 ml of 2-methylpropylamine are refluxed for 1 hour in 50 ml of isopropanol. The reaction mixture is cooled to 50° C., mixed with 15 ml of 1N sodium hydroxide solution and stirred for 30 minutes at this temperature. The solvent is removed, the residue is taken up in water and washed with ethyl acetate. The aqueous phase is adjusted to a pH value of 4-5 by the addition of citric acid, the precipitate formed is suction filtered and washed with water. The filter cake is recrystallised from ethyl acetate.

reactant | methyl 5E-6-(3-(benzoylimino-phenoxymethyleneamino)phenyl)-6-(3-pyridyl)hex-5-enoate | 2.6 g | C(C1=CC=CC=C1)(=O)N=C1C(OC=NC=2C=C(C=CC2)\C(=C/CCCC(=O)OC)\C=2C=NC=CC2)C=CC=C1 | C32H29N3O4
reactant | 2-methylpropylamine | 5 ml | CC(CN)C | C4H11N
reactant | sodium hydroxide | 1N, 15 ml | [OH-].[Na+]
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 5E-6-(3-(2-Benzoyl-3-(2-methylpropyl)guanidino)phenyl)-6-(3-pyridyl)hex-5-enoic acid | C(C1=CC=CC=C1)(=O)N=C(NC=1C=C(C=CC1)\C(=C/CCCC(=O)O)\C=1C=NC=CC1)NCC(C)C | C29H32N4O3
